US07553840B2
A microwave vial (2 ml) was charged with (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid (139 mg, 0.23 mmol), 2-fluoropyridine-4-boronic acid (40 mg, 0.27 mmol) 1 ml of acetonitrile, and 0.7 ml of water. To this mixture, 0.4 ml of aqueous sodium carbonate (1M) was added, followed by 14 mg (5 mol %) of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated to 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness, and the residue was dissolved in 2.5 ml of methanol. The product was purified with Preparative HPLC to give 70 mg of (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(2-fluoro-pyridin-4-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid.

reactant | (S)-3-(4-{2-amino-6-[(S)-1-(4-bromo-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 0.23 mmol, 139 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)Br | C26H26BrF3N4O5
reactant | 2-fluoropyridine-4-boronic acid | 0.27 mmol, 1 ml, 40 mg | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium carbonate | 1M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-3-[4-(2-amino-6-{(S)-2,2,2-trifluoro-1-[4-(2-fluoro-pyridin-4-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid | 70 mg | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC(=NC=C1)F | C31H29F4N5O5
